US07405300B2
Phosphoric acid 2-{4-[1-(4-tert-butylphenyl)-3-formyl-1H-indol-2-yl]-piperazin-1-yl}-ethyl ester diethyl ester (90 mg, 0.166 mmol) is dissolved in methanol and treated with 1M ethereal hydrochloric acid. The solvents are reduced to half and triturated with ether to obtain phosphoric acid 2-{4-[1-(4-tert-butylphenyl)-3-formyl-1H-indol-2-yl]-piperazin-1-yl}-ethyl ester diethyl ester hydrochloride (85 mg, 89% yield) as a solid. ESI/MS 542 (M+H), RT 3.52 min; 1H NMR 10.06 (1H, s); 8.11 (1H, d, J=6 Hz); 7.69 (2H, d, J=9 Hz); 7.51 (2H, d, J=6 Hz); 7.24 (2H, m); 6.96 (1H, d, J=6 Hz); 4.33 (2H, br s); 4.10 (4H, q); 3.68 (2H, br s); 3.39 (6H, br s); 3.03 (2H, br s); 1.37 (9H, s); 1.27 (6H, t); 13C NMR 229.09; 209.60; 197.36; 184.62; 183.17; 154.06; 151.49; 135.32; 133.45; 127.20; 126.81; 124.98; 122.94; 119.71; 113.77; 109.99; 109.53; 106.00; 63.72; 63.65; 51.36; 48.00; 34.59; 31.06; 15.97; 15.88.

reactant | Phosphoric acid 2-{4-[1-(4-tert-butylphenyl)-3-formyl-1H-indol-2-yl]-piperazin-1-yl}-ethyl ester diethyl ester | 0.166 mmol, 90 mg | C(C)OP(OCCN1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C(C)(C)C)(OCC)=O | C29H40N3O5P
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | CO | CH4O
product | phosphoric acid 2-{4-[1-(4-tert-butylphenyl)-3-formyl-1H-indol-2-yl]-piperazin-1-yl}-ethyl ester diethyl ester hydrochloride | 85 mg, 89% yield | Cl.C(C)OP(OCCN1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C(C)(C)C)(OCC)=O | InChI=1S/C29H40N3O5P.ClH/c1-6-35-38(34,36-7-2)37-21-20-30-16-18-31(19-17-30)28-26(22-33)25-10-8-9-11-27(25)32(28)24-14-12-23(13-15-24)29(3,4)5;/h8-15,22H,6-7,16-21H2,1-5H3;1H
